### PR TITLE
[WIP] feat: add proof of `ent_of_sum_le_ent_of_sum`

### PR DESCRIPTION
**Pull request by Paul-Lez**

### CODE REVIEW

**Comment by teorth** [comment]
There appears to be a merge conflict but am I right to assume that otherwise the submission is ready for review?

File: PFR/Mathlib/Probability/Independence/Basic.lean [hunk 1]
```diff
@@ -76,6 +76,43 @@ lemma iIndepFun.finsets_comp {f : ∀ i, Ω → β i} {J : Type*} [Fintype J]
     iIndepFun mγ (fun (j : J) ↦ fun a ↦ φ j (fun (i : S j) ↦ f i a)) μ :=
   Kernel.iIndepFun.finsets_comp S h_disjoint hf_Indep hf_meas γ φ hφ
 
+lemma iIndepFun.finsets_sum  [m : MeasurableSpace β'] [AddCommMonoid β'] [MeasurableAdd₂ β'] {f : ι → Ω → β'} {J : Type*} [Fintype J]
```
Comment (YaelDillies) [inline PFR/Mathlib/Probability/Independence/Basic.lean:79]:
```suggestion
lemma iIndepFun.finsetSum  [m : MeasurableSpace β'] [AddCommMonoid β'] [MeasurableAdd₂ β']
    {f : ι → Ω → β'} {J : Type*} [Fintype J]
```

File: PFR/MoreRuzsaDist.lean [hunk 2]
```diff
@@ -609,12 +560,7 @@ private theorem entropy_kvm_step {Ω : Type u_1} {G : Type u_5} [mΩ : Measurabl
       rwa [←this]
     rw [hφ]
     ext x a : 2
-    fin_cases x <;> simp only [Fin.isValue, Finset.univ_eq_attach, Fin.zero_eta,
-      Nat.succ_eq_add_one, Nat.reduceAdd, Matrix.cons_val', Pi.neg_apply, Finset.sum_apply,
-      Matrix.empty_val', Matrix.cons_val_fin_one, Matrix.cons_val_zero, neg_inj] ; rw [hS]
-    · simp [Finset.sum_attach (s \ {f i}).attach  (X · a), Finset.sum_attach (s \ {f i}) (X · a)]
-    · simp
-    · simp
+    fin_cases x <;> simp ; rw [hS] ; simp [Finset.sum_attach (s \ {f i}).attach  (X · a), Finset.sum_attach (s \ {f i}) (X · a)]
```
Comment (YaelDillies) [inline PFR/MoreRuzsaDist.lean:563]:
```suggestion
    fin_cases x <;> simp; rw [hS]; simp [Finset.sum_attach (s \ {f i}).attach  (X · a), Finset.sum_attach (s \ {f i}) (X · a)]
```

File: PFR/MoreRuzsaDist.lean [hunk 3]
```diff
@@ -523,8 +523,199 @@ lemma kvm_ineq_III {I : Type*} {i₀ i₁ : I} {s : Finset I}
...
+  (hX : ∀ i, Measurable (X i)) (hindep : iIndepFun (fun _ ↦ hG) X μ)
+  (W : Ω → G) (hW : W = ∑ i ∈ s, X i) (W_meas : Measurable W)
+  (Y : Option { x // x ∈ t } → Ω → G)
+  (hY : Y = fun i ↦ match i with | some i => X ↑i | none => -W)
+  (Y_meas : ∀ i, Measurable (Y i))
+  (Y_finite : ∀ i, FiniteRange (Y i)) :
+  iIndepFun (fun _ ↦ hG) Y μ := by
+  set S : Option {x // x ∈ t} → Finset I := fun i => match i with | some i => {i.val} | none => s with hS
+  set φ : I → G → G := fun i ↦ if i ∈ t then id else - id with hφ
+  set X' : I → Ω → G := fun i ↦ φ i ∘ (X i) with hX'
```
Comment (YaelDillies) [inline PFR/MoreRuzsaDist.lean:591]:
```suggestion
  set φ i : G → G := if i ∈ t then id else - id with hφ
  set X' i : Ω → G := φ i ∘ X i with hX'
```

File: PFR/MoreRuzsaDist.lean [hunk 4]
```diff
@@ -523,8 +523,199 @@ lemma kvm_ineq_III {I : Type*} {i₀ i₁ : I} {s : Finset I}
...
+        _ = H[(- (X <| f i)) + X i ; μ] - H[(X (f i)) ; μ] := by
+          rw [ProbabilityTheory.entropy_neg (hX <| f i)]
+      apply le_of_eq
+      congr
+      abel
+    _ = H[W ; μ] + ∑ i in t, (H[X i - X (f i); μ] - H[X (f i); μ]) := by
+      rw [ProbabilityTheory.entropy_neg]
+      measurability
+
+open Classical
```
Comment (YaelDillies) [inline PFR/MoreRuzsaDist.lean:717]: Dangerous!

File: PFR/MoreRuzsaDist.lean (hunk 3 above)
Comment (Paul-Lez) [reply PFR/MoreRuzsaDist.lean]: This doesn't seem to work with `set`!
